US05387710
A solution of 2-bromoacetylnaphthalene (7.00 g) and tetra-n-butyl ammonium bromide (0.905 g) in 1,2-dichloroethane (226 ml) was refluxed for 3.5 hours, evaporated in vacuo and extracted with dichloromethane. The extract was washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was washed with n-hexane to afford 2-chloroacetylnaphthalene (5.43 g) as a yellow powder.

reactant | 2-bromoacetylnaphthalene | 7.00 g | BrCC(=O)C1=CC=CC2=CC=CC=C12 | C12H9BrO
reactant | 1,2-dichloroethane | 226 ml | ClCCCl | C2H4Cl2
catalyst | tetra-n-butyl ammonium bromide | 0.905 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-chloroacetylnaphthalene | 5.43 g | ClCC(=O)C1=CC=CC2=CC=CC=C12 | C12H9ClO
